US06919355B2
a) Ethyl 3H-furo[2,3-f]benzoxazole-2-one-6-carboxylate
A mixture of 0.9 g (4.2 mmol) of ethyl 5-hydroxy-6-aminobenzofuran-2-carboxylate [Helv. Chim. Acta 77, 100. (1994)], 60 ml of tetrahydrofuran, 3.1 ml of 20% phosgene in toluene solution and 2.0 ml of triethylamine is stirred at room temperature for 1 h. The tetrahydrofuran is distilled off in vacuum, water is added to the residue and the product is extracted with ethyl acetate. The combined organic layers are washed with 5% aqueous sodium hydrogencarbonate solution, water, 1 N hydrochloric acid solution and again with water, dried over sodium sulfate and concentrated to yield 1.0 g (96%) of the title compound as oil.

reactant | ethyl 5-hydroxy-6-aminobenzofuran-2-carboxylate | 4.2 mmol, 0.9 g | OC=1C(=CC2=C(C=C(O2)C(=O)OCC)C1)N | C11H11NO4
reactant | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
reactant | phosgene | 3.1 ml | C(=O)(Cl)Cl | CCl2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 2.0 ml | C(C)N(CC)CC | C6H15N
product | Ethyl 3H-furo[2,3-f]benzoxazole-2-one-6-carboxylate | 1.0 g, 96% | O1C(NC2=C1C=C1C(=C2)OC(=C1)C(=O)OCC)=O | C12H9NO5
